US06528525B1
Methyl 3-[4-(2-t-butoxycarbonylaminoethoxy)phenyl]-2-(4-methylthiophenoxy)propionate
In a similar manner to that described in Example 122, a reaction was carried out using methyl 3-[4-(2-t-butoxycarbonylaminoethoxy)phenyl]-2-hydroxypropionate (389 mg), which is obtained in a similar manner to that described in Reference example 39(a), 4-methylthiophenol (241 mg), triphenylphosphine (463 mg) and solution of diethylazodicarboxylate in toluene (40%, 0.31 ml) and the reaction mixture was treated to afford the desired compound (265 mg) as a colorless oil which contained some impurities.

reactant | methyl 3-[4-(2-t-butoxycarbonylaminoethoxy)phenyl]-2-hydroxypropionate | 389 mg | C(C)(C)(C)OC(=O)NCCOC1=CC=C(C=C1)CC(C(=O)OC)O | C17H25NO6
reactant | 4-methylthiophenol | 241 mg | CC1=CC=C(C=C1)S | C7H8S
reactant | triphenylphosphine | 463 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | toluene | 0.31 ml | C1(=CC=CC=C1)C | C7H8
product | Methyl 3-[4-(2-t-butoxycarbonylaminoethoxy)phenyl]-2-(4-methylthiophenoxy)propionate | 265 mg | C(C)(C)(C)OC(=O)NCCOC1=CC=C(C=C1)CC(C(=O)OC)SC1=CC=C(C=C1)C | C24H31NO5S
